US06465471B1
4-[(3,5-Dichloro-4-pyridinyl)methoxy]benzaldehyde
A mixture of 4-(bromomethyl)-3,5-dichloropyridine (15 g, 62.2 mmol), 4-hydroxybenzaldehyde (7.97 g, 65.4 mmol) and caesium carbonate (22.3 g, 68.5 mmol) in DMF (150 ml) was stirred for 4.5 h at room temperature. The mixture was poured into water and extracted with EtOAc. The organic extract was washed with sodium carbonate solution (×2) and brine, dried (MgSO4) and evaporated in vacuo to give the title compound as a brown solid (16 g). δH (DMSO-d6), 9.91 (1H, s), 8.74 (2H, s), 7.91 (2H, d, J 8.6 Hz), 7.27 (2H, d, J 8.6 Hz), 5.37 (2H, s); m/z (ESI) 282 (MH+).

reactant | 4-(bromomethyl)-3,5-dichloropyridine | 62.2 mmol, 15 g | BrCC1=C(C=NC=C1Cl)Cl | C6H4BrCl2N
reactant | 4-hydroxybenzaldehyde | 65.4 mmol, 7.97 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | caesium carbonate | 68.5 mmol, 22.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 4-[(3,5-Dichloro-4-pyridinyl)methoxy]benzaldehyde | 16 g | ClC=1C=NC=C(C1COC1=CC=C(C=O)C=C1)Cl | C13H9Cl2NO2
